US06110922
(2-Carbomethoxyethyl)[2-chloro-4-(E-((4-acetylpiperazin-1-yl)carbonyl) ethenyl)phenyl]sulfide
The title compound was prepared by the procedures described in Example 1 substituting 2,4-dichlorothiophenol with methyl 3-mercaptopropionate, and 6-amino-1-hexanol with 1-acetyl piperazine.

reactant | 2,4-dichlorothiophenol | ClC1=C(C=CC(=C1)Cl)S | C6H4Cl2S
reactant | methyl 3-mercaptopropionate | SCCC(=O)OC | C4H8O2S
reactant | 6-amino-1-hexanol | NCCCCCCO | C6H15NO
reactant | 1-acetyl piperazine | C(C)(=O)N1CCNCC1 | C6H12N2O
product | (2-Carbomethoxyethyl)[2-chloro-4-(E-((4-acetylpiperazin-1-yl)carbonyl) ethenyl)phenyl]sulfide | C(=O)(OC)CCSC1=C(C=C(C=C1)\C=C\C(=O)N1CCN(CC1)C(C)=O)Cl | C19H23ClN2O4S
